US06762180B1
N-(dimethylaminocarbonyl-methyl)-N-methylsulphonyl-4-nitroaniline
7.0 g of N-carboxymethyl-N-methylsulphonyl-4-nitroaniline, 2.5 g of dimethylamine hydrochloride, 8.1 g of TBTU and 3.9 g of HOBT are dissolved in 125 ml of dimethylformamide and at 0° C. 17.6 ml of N-ethyl-diisopropylamine are added. The mixture is stirred for 4 hours at room temperature, diluted with 11 l of water and the precipitate formed is suction filtered. After washing with water, ethanol and ether the residue is dried at 70° C. in vacuo.

reactant | N-carboxymethyl-N-methylsulphonyl-4-nitroaniline | 7.0 g | C(=O)(O)CN(C1=CC=C(C=C1)[N+](=O)[O-])S(=O)(=O)C | C9H10N2O6S
reactant | dimethylamine hydrochloride | 2.5 g | Cl.CNC
reactant | TBTU | 8.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBT | 3.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethyl-diisopropylamine | 17.6 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
solvent | water | 11 l | O | H2O
product | N-(dimethylaminocarbonyl-methyl)-N-methylsulphonyl-4-nitroaniline | CN(C(=O)CN(C1=CC=C(C=C1)[N+](=O)[O-])S(=O)(=O)C)C | C11H15N3O5S
